US04374829
Under basic conditions, DL-α,β-diaminopropionic acid is reacted with excess benzyloxycarbonyl chloride to yield upon acidification D,L-α,β-bis(benzyloxycarbonylamino)-propionic acid (mp=123.5°-124° C. ). Phosphorous pentachloride is added to a chloroform solution containing the di-Cbz product to yield on workup D,L-4-(benzyloxycarbonylaminomethyl)-oxazolidin-2,5-dione. A solution of L-proline t-butyl ester in methylene chloride is added to the N-carboxyanhydride in tetrahydrofuran at -60° C. After overnight freezer storage, the mixture is stripped to dryness affording crude product. Trifluoroacetic acid effectively cleaves the t-butyl ester in 2 hours at room temperature resulting in a gross mixture of L-proline and β-benzyloxycarbonylamino-D,L-alanyl-L-proline. Gel filtration chromatography (LH-20) results in pure dipeptide. 2-Oxo-4-phenylbutyric acid and benzyloxycarbonylamino-D,L-alanyl-L-proline are condensed in the presence of sodium cyanoborohydride. Removal of the protecting group from the resulting product yields N-(1-carboxy-3-phenylpropyl)-β-amino-D,L-alanyl-L-proline. The nmr in D2O showed aromatic protons at 7.4δ, methine protons at 4.2δ and multiplets at 3.7, 3.2, 2.9 and 2.1δ.

reactant | 2-Oxo-4-phenylbutyric acid | O=C(C(=O)O)CCC1=CC=CC=C1 | C10H10O3
reactant | benzyloxycarbonylamino-D,L-alanyl-L-proline | C(C1=CC=CC=C1)OC(=O)NNC(C)C(=O)N1[C@H](C(=O)O)CCC1 | C16H21N3O5
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-(1-carboxy-3-phenylpropyl)-β-amino-D,L-alanyl-L-proline | C(=O)(O)C(CCC1=CC=CC=C1)NC(CN)C(=O)N1[C@H](C(=O)O)CCC1 | C18H25N3O5
